US06878748B2
c) Methyl 4-(3,3-difluorocyclobutoxy)-5-methanesulfonyl-2-methylbenzoate
370 mg of methyl 4-fluoro-5-methanesulfonyl-2-methylbenzoate, 297 mg of 3,3-difluorocyclobutanol and 1.47 g of Cs2CO3 were dissolved in 10 ml of anhydrous NMP and stirred at 60° C. for 4 h. The reaction mixture was then diluted with 125 ml of a 50% concentrated aqueous NaHCO3 solution and extracted 3 times with 100 ml of EA each time. It was dried over Na2SO4, and the solvent was removed in vacuo. Chromatography on silica gel with DIP resulted in 380 mg of a colorless oil.

reactant | methyl 4-fluoro-5-methanesulfonyl-2-methylbenzoate | 370 mg | FC1=CC(=C(C(=O)OC)C=C1S(=O)(=O)C)C | C10H11FO4S
reactant | 3,3-difluorocyclobutanol | 297 mg | FC1(CC(C1)O)F | C4H6F2O
reactant | Cs2CO3 | 1.47 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | NMP | 10 ml | CN1CCCC1=O | C5H9NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | Methyl 4-(3,3-difluorocyclobutoxy)-5-methanesulfonyl-2-methylbenzoate | 380 mg | FC1(CC(C1)OC1=CC(=C(C(=O)OC)C=C1S(=O)(=O)C)C)F | C14H16F2O5S
